US06696462B2
a) Methylxanthene-9-carboxylate
A sodium ethoxide solution is generated from 21.75 g (0.95 mol) of sodium and 1500 mL of ethanol. 214 g (0.95 mol) of xanthene-9-carboxylic acid is added batchwise to this solution and the resulting suspension is stirred for 1 hour at ambient temperature. Then the solid is separated off, washed with 1500 mL of diethyl ether, and the isolated crystals are suspended in 1500 mL of dimethylformamide and 126.73 mL (2.0 mol) of methyl iodide is added with stirring. The solution obtained is left to stand for 24 hours at ambient temperature, then diluted with water to a total volume of 6 L, crystallized, suction filtered, washed with water, and dried. Yield: 167 g of white crystals (74% of theoretical yield); melting point: 82° C.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 0.95 mol, 21.75 g | [Na] | Na
reactant | xanthene-9-carboxylic acid | 0.95 mol, 214 g | C1=CC=CC=2OC3=CC=CC=C3C(C12)C(=O)O | C14H10O3
reactant | methyl iodide | 2.0 mol, 126.73 mL | CI | CH3I
solvent | water | O | H2O
solvent | ethanol | 1500 mL | C(C)O | C2H6O
product | Methylxanthene-9-carboxylate | COC(=O)C1C2=CC=CC=C2OC=2C=CC=CC12 | C15H12O3
